US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (20 mg, 0.043 mmol), 2-(4-methylthiazol-5-yl)ethanol (30.6 mg, 0.213 mmol) and Ph3P-resin (55.8 mg, 0.213 mmol) in THF (2 mL) was added DEAD (0.020 mL, 0.128 mmol) at rt. After 18 h, mixture was filtered to remove polymer, concentrated and treated with 1N NaOH (0.854 mL, 0.854 mmol) in MeOH (1 mL) at 75° C. for 16 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2-(4-methylthiazol-5-yl)ethoxy)phenyl)pyridin-3-yl)acetic acid (4.2 mg, 7.42 μmol, 17.39% yield). 1H NMR (500 MHz, DMSO-d6) δ 8.87 (s, 1H), 7.39 (d, J=8.4 Hz, 1H), 7.17 (s, 1H), 7.13-7.08 (m, 2H), 5.54 (s, 1H), 4.54-4.41 (m, 6H), 4.26-4.15 (m, 2H), 2.68 (s, 3H), 2.37 (s, 3H), 2.29 (s, 3H), 1.28 (br. s., 4H), 1.15 (s, 9H), 0.80 (br. s., 6H). LCMS (M+H)=566.5.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.043 mmol, 20 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 2-(4-methylthiazol-5-yl)ethanol | 0.213 mmol, 30.6 mg | CC=1N=CSC1CCO | C6H9NOS
reactant | Ph3P | 0.213 mmol, 55.8 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.128 mmol, 0.020 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | NaOH | 0.854 mmol, 1N, 0.854 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethyl-5-(4-(2-(4-methylthiazol-5-yl)ethoxy)phenyl)pyridin-3-yl)acetic acid | 7.42 μmol, 4.2 mg, 17.39% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=C(N=CS1)C)C)C | C32H43N3O4S
